US07132426B2
1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol (0.520 g, 1.68 mmol) was dissolved in DMSO (3 mL) and dimethylamine (2M solution in THF) (4 mL, 150 mmol) was added. The mixture was heated at 120° C. for 15 h. The solvent was removed under reduced pressure and the crude was purified by HPLC, yielding 1-(2-dimethylamino-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol as an off-white solid (0.500 g, 89%). Exact mass calculated for C14H15N5O3S 333.09, found 334.4 (MH+, 100%).

reactant | 1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 1.68 mmol, 0.520 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2O | C12H9FN4O3S
reactant | dimethylamine | 150 mmol, 2M, 4 mL | CNC | C2H7N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-(2-dimethylamino-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 0.500 g, 89% | CN(C1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2O)C | C14H15N5O3S
